US04866064
In 165 ml of methanol, 4.1 g of 2-phenylthio-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was dissolved. A dispersion of 40.3 g of OXONE® suspended in 165 ml of water was added to the methanol solution, and the resulting mixture was warmed to 60° C. and stirred for 2 hours. After cooling, chloroform was added for extraction, the organic layer was washed with a sodium thiosulfate aqueous solution, a sodium hydrogen carbonate aqueous solution and water respectively. After the organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off. The residue was recrystallized from a toluene/ethanol (1:1) mixture and thus 1.2 g of 2-benzenesulfonyl-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained.

reactant | 2-phenylthio-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 4.1 g | C1(=CC=CC=C1)SC1=NN2C(=NC=C(C2=O)C)S1 | C12H9N3OS2
reactant | OXONE | 40.3 g | OOS(=O)[O-].[K+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | 165 ml | O | H2O
solvent | methanol | 165 ml | CO | CH4O
product | 2-benzenesulfonyl-6-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 1.2 g, Yield 26% | C1(=CC=CC=C1)S(=O)(=O)C1=NN2C(=NC=C(C2=O)C)S1 | C12H9N3O3S2
